*   BF908WR SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT343R 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF908WR 1 2 3 4
        L10          1 10   L=0.10N
        L20          2 20   L=0.34N
        L30          3 30   L=0.34N
        L40          4 40   L=0.34N
        L11         10 11   L=1.10N
        L21         20 21   L=1.10N
        L31         30 31   L=1.10N
        L41         40 41   L=1.10N
        C13         10 30   C=0.060P
        C14         10 40   C=0.060P
        C21         10 20   C=0.050P
        C23         20 30   C=0.070P
        C24         20 40   C=0.005P
        D11        42 11   ZENER
        D12        42 41   ZENER
        D21        32 11   ZENER
        D22        32 31   ZENER
        RS         10 12   R=100
        MOS1       61 41 11 12 GATE1 L=1.1E-6 W=1750E-6
        MOS2       21 31 61 12 GATE2 L=2.0E-6 W=1750E-6

.MODEL  ZENER
+  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=33E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=33E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.7E-12 CBS=0.5E-12

.ENDS BF908WR

